US05935972
4-Bromo-1-[(2,2-dimethoxyethyl)oxy]-2-methylbenzene
A mixture of 4-bromo-2-methylphenol (5 g), bromoacetaldehyde dimethyl acetal (3.8 ml) and potassium hydroxide (3.0 g) in dimethylsulphoxide (15 ml) was heated to reflux for 21/2 h. Water (50 ml) was added to the cooled mixture which was then extracted with ether (4×50 ml). The extracts were washed with 5N sodium hydroxide (50 ml) and brine (50 ml), dried (MgSO4), then evaporated in vacuo to give the title compound as a brown oil (6 g).

reactant | 4-bromo-2-methylphenol | 5 g | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | bromoacetaldehyde dimethyl acetal | 3.8 ml | COC(CBr)OC | C4H9BrO2
reactant | potassium hydroxide | 3.0 g | [OH-].[K+]
reactant | Water | 50 ml | O | H2O
solvent | dimethylsulphoxide | 15 ml | CS(=O)C | C2H6OS
product | 4-Bromo-1-[(2,2-dimethoxyethyl)oxy]-2-methylbenzene | 6 g | BrC1=CC(=C(C=C1)OCC(OC)OC)C | C11H15BrO3
